US06528525B1
(a) Ethyl 3-(3-bromo4-hydroxyphenyl)-2-phenoxypropionate
N-bromosuccinimide (1.12 g) was added to a solution of ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate (1.43 g), which is the product of reference example 4(c) in chloroform (20 ml) at ambient temperature. The mixture was stirred at 70° C. for 4 hour and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified via chromatography on silica gel column using hexane/ethyl acetate=4/1 as the eluant to afford the desired compound (1.41 g) as a colorless oil.

reactant | N-bromosuccinimide | 1.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate | 1.43 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H18O4
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-(3-bromo4-hydroxyphenyl)-2-phenoxypropionate | 1.41 g | BrC=1C=C(C=CC1O)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H17BrO4
